US07087599B2
Step 5: 9a-butyl-7-hydroxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one
A solution of 9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (28.4 mg, 0.1 mmol) in anhydrous CH2Cl2 (1.7 mL) was stirred under a nitrogen atmosphere and cooled in a dry ice-acetone bath while 1M BBr3 in CH2Cl2 (0.30 mL, 0.3 mmol) was added dropwise by syringe. The cooling bath was removed and the reaction mixture was stirred at room temperature for 4 hours. The mixture was diluted with EtOAc (8 mL), water (3 mL) and 1N HCL (1 mL) and shaken vigorously. The EtOAc layer was separated, washed with water (3 mL), 1M pH 3 phosphate (3 mL) and brine (3 mL), dried over MgSO4, filtered and evaporated under vacuum to give an ochre solid (26.8 mg). The crude product was suspended in CDCl3 (1 mL) and filtered. The solid portion was dried under vacuum to afford 9a-butyl-7-hydroxy-8-methyl-1,2,9,9a-3H-tetrahydro-fluoren-3-one as an olive colored powder.

reactant | 9a-butyl-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.1 mmol, 28.4 mg | C(CCC)C12CC3=C(C(=CC=C3C2=CC(CC1)=O)OC)C | C19H24O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1.7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.3 mmol, 0.30 mL | C(Cl)Cl | CH2Cl2
product | 9a-butyl-7-hydroxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 26.8 mg | C(CCC)C12CC3=C(C(=CC=C3C2=CC(CC1)=O)O)C | C18H22O2
